data/pmechdb/original/mc_train_fold0/raw/train.txt
CCCCCC1=CC(=C([C:11](=[CH:10]1)[OH:12])CC=C(C)C)O.CC(=C[CH2+:20])C.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CCCCCC1=CC(=C([C:11](=[OH+:12])[CH:10]1[CH2:20]C=C(C)C)CC=C(C)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10,11=10,20;12=11
[CH2:20]=[O:21].C1C2CC(=CC1C[NH:10]C2)C3=CC=CN=C3.C(=O)O>>C1C2CC(=CC1C[NH+:10](C2)[CH2:20][O-:21])C3=CC=CN=C3.C(=O)O 10=20;20,21=21
CC(C)(C(=O)C1CCCC2=C([C:20]1([OH:21])[O-:10])C=CC=C2)O[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5>>CC(C)(C(=O)C1CCCC2=C([C:20]1=[O:10])C=CC=C2)O[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5.[OH-:21] 10=20;20,21=21
C[Si](C)(C)C[CH:11]=[CH:10]COC[CH2+:20]>>C[Si](C)(C)C[CH+:11][CH:10]1[CH2:20]COC1 10,11=10,20
CC1CC(=NO[C:20](C(F)(F)F)([O-:10])[O:21]C(=O)C(F)(F)F)C2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C.CC1CC(=N[OH2+])C2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C>>CC1CC(=NO[C:20](=[O:10])C(F)(F)F)C2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C.C(=O)(C(F)(F)F)[O-:21].CC1CC(=N[OH2+])C2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C 10=20;20,21=21
C[P+:20](C)(C)[O-:10]>>C[P:20](=[O:10])(C)C 10=20,
CC(C)(C)[Si](C)(C)OCC(C)(C1=CC=CC=C1)C(=O)[O-:10].C1=CC=C(C=C1)O[P:20](=[O:21])(N=[N+]=[N-])OC2=CC=CC=C2.CC[NH+](CC)CC>>CC(C)(C)[Si](C)(C)OCC(C)(C1=CC=CC=C1)C(=O)[O:10][P:20](N=[N+]=[N-])([O-:21])(OC2=CC=CC=C2)OC3=CC=CC=C3.CC[NH+](CC)CC 10=20;20,21=21
[H:20][CH:21](C(C)(C)O)[N+](=O)[O-].CC[O-:10]>>[H:20][O:10]CC.CC(C)([CH-:21][N+](=O)[O-])O 10=20;20,21=21
[CH:11]1=[CH:10]C2=CC=CC(=C2C=C1)[N+](=O)[O-].O[S+:20](=O)=O>>C1=CC(=C2C=C[CH+:11][CH:10](C2=C1)[S:20](=O)(=O)O)[N+](=O)[O-] 10,11=10,20
[H:20][O:21]C(=CC(=O)OC(=O)C1=CC=CC=C1)CC2=CC=CC=C2.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.C1=CC=C(C=C1)CC(=CC(=O)OC(=O)C2=CC=CC=C2)[O-:21] 10=20;20,21=21
[H:20][OH2+:21].CCC(O)[O:10]C>>[H:20][O+:10](C)C(CC)O.[OH2:21] 10=20;20,21=21
C[P:10](C)C.[Mg+:20]I>>C[P+:10](C)(C)[Mg:20]I 10=20,
CC(C)CC(C(=O)OCC1=CC=CC=C1)[N+]#[C-:10].CC([CH:20]=[OH+:21])NC(=O)OCC1C2=C(C=CC=C2)C3=CC=CC=C13.CC(C)(C)OC(=O)NC(CCCNC(=O)OCC1=CC=CC=C1)C(=O)[O-]>>CC(C)CC(C(=O)OCC1=CC=CC=C1)[N+]#[C:10][CH:20](C(C)NC(=O)OCC2C3=C(C=CC=C3)C4=CC=CC=C24)[OH:21].CC(C)(C)OC(=O)NC(CCCNC(=O)OCC1=CC=CC=C1)C(=O)[O-] 10=20;20,21=21
[BH2:20]C1CCCC2(C1CCCC2OS(=O)(=O)C)C.[OH:10][Na]>>[BH2-:20](C1CCCC2(C1CCCC2OS(=O)(=O)C)C)[OH+:10][Na] 10=20,
[Li+:20].C=CC[O-:10].CCC>>[Li:20][O:10]CC=C.CCC 10=20,
C[C+]=C[Si:20](C)(C)C.C[O:10][Fe-]>>C[C+]=C[Si-:20](C)(C)(C)[O+:10](C)[Fe-] 10=20,
C1CC[C:20](C1)([N:10]2CCOCC2)[OH2+:21].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C1CC[C:20](=[N+:10]2CCOCC2)C1.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CCC(=O)O[C:20](C)([O-:10])[O:21]C(=O)C>>CCC(=O)O[C:20](=[O:10])C.CC(=O)[O-:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC(=C2)C(F)(F)F)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=CC2=C1C=CC(=C2)C(F)(F)F 10=20;20,21=21,22
CC1(C[CH+:20]C2(C1[CH:11]=[CH:10]2)C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)[O-]>>CC1(C[CH:20]2[CH:10]3C2(C1[CH+:11]3)C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)[O-] 10,11=10,20
CCOC(=O)[C:20](=[O:21])CC(=O)C1=CC=CO1.C1=CC(=CC(=C1)C#N)N[NH2:10].CCO.CC1=CC=C(C=C1)S(=O)(=O)O>>CCOC(=O)[C:20](CC(=O)C1=CC=CO1)([NH2+:10]NC2=CC(=CC=C2)C#N)[O-:21].CCO.CC1=CC=C(C=C1)S(=O)(=O)O 10=20;20,21=21
CCCCCC1=C[C:10](=CC=C1)[C:11](C)([CH:20](C2=CC=C(C=C2)C)[OH2+:21])[OH:12].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCCCC1=C[C:10](=CC=C1)[CH:20](C2=CC=C(C=C2)C)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
C[C:20](=[OH+:21])SC.[OH2:10]>>C[C:20]([OH2+:10])([OH:21])SC 10=20;20,21=21
[H:20][C:21]1(CC([O+:23]=[C:22]1C)(C2=CC=C(C=C2)OC)O)C3=CC4=C(C=CC=CC4=C3C(=O)OCC)OCC.CC1=CC=C(C=C1)S(=O)(=O)[O-:10].CN(C)C=O>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.CCOC1=C2C=C(C(=C2C=CC=C1)C(=O)OCC)[C:21]3=[C:22]([O:23]C(C3)(C4=CC=C(C=C4)OC)O)C.CN(C)C=O 10=20;22,23=23;20,21=21,22
C[N+:21](=[CH:20]Cl)C.[O-:10]P(=O)(Cl)Cl.[Cl-]>>C[N:21](C)[CH:20]([O:10]P(=O)(Cl)Cl)Cl.[Cl-] 10=20;20,21=21
CCCCCC1=CC=C[N+:21](=C1)[CH:20]2CC(C([O:10]2)COCC(C)C)O>>CCCCCC1=CC=C[N:21]=C1.CC(C)COCC1C(C[CH:20]=[O+:10]1)O 10=20;20,21=21
C[C:20](=[O:21])Cl.CC1(C[C:13](=[CH:12][C:11](=[O:10])C1)[O-:14])C.CC[NH+](CC)CC>>CC1(C[C:11](=[CH:12][C:13](=[O:14])C1)[O:10][C:20](C)([O-:21])Cl)C.CC[NH+](CC)CC 10,11=10,20;20,21=21;12,13=11,12;14=13
[H:20][O:21]S(=O)(=O)O.CCSC[CH:10]=[C:11]([OH:12])OC>>[H:20][CH:10](CSCC)[C:11](=[OH+:12])OC.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][C:21]1(CCCC[C:22]1=[O:23])C.CC[O-:10]>>[H:20][O:10]CC.C[C:21]1=[C:22](CCCC1)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][OH+:21]C(CC1CCCCC1)CC(C)C.[O-:10]S(=O)Cl.CC(C)CC(CC1CCCCC1)[O+]2CCOCC2.[Cl-]>>[H:20][O:10]S(=O)Cl.CC(C)CC(CC1CCCCC1)[OH:21].CC(C)CC(CC1CCCCC1)[O+]2CCOCC2.[Cl-] 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.CCOC(=[O:10])CCCC(C1=CC=CC=C1)O>>[H:20][O+:10]=C(CCCC(C1=CC=CC=C1)O)OCC.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
CC1[CH:10](C2C3C2(C1(CC(C3)C(=C)C)C)C)[O:11]S(=O)(=O)C.C1=CC=NC=C1>>CC1[CH+:10]C2C3C2(C1(CC(C3)C(=C)C)C)C.CS(=O)(=O)[O-:11].C1=CC=NC=C1 10,11=11
[H:20][O+:21](CCC(=O)O)S(=O)Cl.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.C(C[O:21]S(=O)Cl)C(=O)O 10=20;20,21=21
